US07709507B2
2-(3-Fluoro-phenyl)-1-pyridin-3-yl-ethylamine:
The intermediate oxime was prepared from 2-(3-fluoro-phenyl)-1-pyridin-3-yl-ethanone (crude) and methoxylamine hydrochloride (6.50 g, 77.83 mmol) according to the protocol described in general procedure B. The oxime was then dissolved in acetic acid (10.00 mL) and Pd/C (0.80 g) was added. The reaction mixture was hydrogenated under 50 psi for 14 hours, then filtered and concentrated. The residue was basified with 5M sodium hydroxide and extracted with methylene chloride. The combined organic phases were dried over potassium carbonate and concentrated to yield the title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 2.83 ((dd, J=7.04, 3.22 Hz, 2 H) 4.07 (t, J=7.04 Hz, 1 H) 6.96-7.08 (m, 2 H) 7.11 (td, J=5.86, 2.64 Hz, 1 H) 7.14-7.23 (m, 1 H) 7.27 (dd, J=7.48, 5.13 Hz, 1 H) 7.70 (ddd, J=7.77, 2.20, 2.05 Hz, 1 H) 8.36 (dd, J=4.84, 1.61 Hz, 1 H) 8.41 (t, J=3.08 Hz, 1 H).

reactant | 2-(3-fluoro-phenyl)-1-pyridin-3-yl-ethanone | FC=1C=C(C=CC1)CC(=O)C=1C=NC=CC1 | C13H10FNO
reactant | methoxylamine hydrochloride | 77.83 mmol, 6.50 g | Cl.O(C)N
solvent | acetic acid | 10.00 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.80 g | [Pd] | Pd
product | 2-(3-Fluoro-phenyl)-1-pyridin-3-yl-ethylamine | FC=1C=C(C=CC1)CC(C=1C=NC=CC1)N | C13H13FN2
